US05420132
Add 0.5 cm3 of a molar solution of sodium ethanolate in ethanol to a solution of 1 g (3.78 mmol) of ethyl 7-acetoxy-1,4-benzodioxin-2-carboxylate in 15 cm3 of anhydrous ethanol under a nitrogen atmosphere. Stir for 18 hours at room temperature and then neutralise with Dowex X-8 resin, acid form, which has been washed beforehand with ethanol. After filtration and concentration to dryness under partial pressure, the crude product obtained is purified by chromatography on a silica column (eluant: petroleum ether/diethyl ether, 80:20). Ethyl 7-hydroxy-1,4-benzodioxin-2-carboxylate is thereby obtained in a yield of 96%.

reactant | sodium ethanolate | C(C)[O-].[Na+]
reactant | ethyl 7-acetoxy-1,4-benzodioxin-2-carboxylate | 3.78 mmol, 1 g | C(C)(=O)OC=1C=CC2=C(OC(=CO2)C(=O)OCC)C1 | C13H12O6
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
product | Ethyl 7-hydroxy-1,4-benzodioxin-2-carboxylate | yield of 96% | OC=1C=CC2=C(OC(=CO2)C(=O)OCC)C1 | C11H10O5
